US07151105B2
Step 1: N-(Anilinocarbonyl)-2-(1-methylethylidene)hydrazinecarboximidamide
To a suspension of sodium (19 g, 0.82 mol) in acetone (1000 mL) and was added aminoguanidine hydrochloride (100 g, 0.91 mol) in portions. The mixture was refluxed for 60 minutes. The heating bath was removed, and phenyl isocyanate (78.4 g, 0.65 mol) was added dropwise during 30 minutes. The mixture was refluxed for another 30 minutes. The mixture was poured into ice water (2.5 L). The oil solidified at room temperature during an overnight stirring. The solid was filtered and washed with petroleum ether to afford the product as a yellow solid (150 g, 70%.

reactant | sodium | 0.82 mol, 19 g | [Na] | Na
reactant | aminoguanidine hydrochloride | 0.91 mol, 100 g | C(=N)(N)NN.Cl
reactant | phenyl isocyanate | 0.65 mol, 78.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | acetone | 1000 mL | CC(=O)C | C3H6O
product | N-(Anilinocarbonyl)-2-(1-methylethylidene)hydrazinecarboximidamide | N(C1=CC=CC=C1)C(=O)NC(=N)NN=C(C)C | C11H15N5O
